US06436999B1
a) 3-Methylsulfonyl-4-i-propylbenzoyl Chloride
4.0 g of 3-methylsulfonyl-4-i-propylbenzoic acid, 1.5 ml of thionyl chloride and 3 drops of DMF are heated under reflux for 10 h in 30 ml of toluene. The solvent is subsequently removed in vacuo and the product is taken for further use without purification.

reactant | 3-methylsulfonyl-4-i-propylbenzoic acid | 4.0 g | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1C(C)C | C11H14O4S
reactant | thionyl chloride | 1.5 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Methylsulfonyl-4-i-propylbenzoyl Chloride | CS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1C(C)C | C11H13ClO3S
